US07842713B2
Preparation of Intermediate 252c: Ethyl 4-hydroxy-2-methyl-1-benzofuran-6-carboxylate
A mixture of ethyl 4-(acetyloxy)-2-methyl-1-benzofuran-6-carboxylate in absolute ethanol (500 mL) and potassium carbonate (18 g, 0.13 mol) was stirred for 3 h at 60° C. The mixture was diluted with 500 mL of dichloromethane and the suspension was filtered. The precipitate was washed with 200 mL of dichloromethane. The combined solutions was washed with 200 mL of a 10% aqueous solution of citric acid and evaporated in vacuum to dryness. The crude product introduced into a silica gel column and eluted with hexane/ethyl acetate mixture (2:1) to give 20 g (91 mmol, 95%) of desired compound as a yellow solid. 1HNMR (DMSO d-6): 1.30 (t, H), 2.45 (s, 3H), 4.30 (qt, 2H), 6.65 (s, 1H), 7.28 (2, 1H), 7.53 (s, 1H), 10.25 (s, 1H).

reactant | ethyl 4-(acetyloxy)-2-methyl-1-benzofuran-6-carboxylate | C(C)(=O)OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC | C14H14O5
reactant | potassium carbonate | 0.13 mol, 18 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | Ethyl 4-hydroxy-2-methyl-1-benzofuran-6-carboxylate | 91 mmol, 20 g, 95% | OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC | C12H12O4
